US06596751B2
2-Acetylthio-3-[4-(6-methoxy-1-methyl-1H-benzimidazol-2-ylmethoxy)phenyl]propionic acid
To a mixture of 2-mercapto-3-[4-(6-methoxy-1-methyl-1H-benzimidazol-2-ylmethoxy)phenyl]propionic acid hydrochloride (1.5 g), pyridine (0.87 g), tetrahydrofuran (30 ml) and N,N-dimethylformamide (30 ml) was added acetic anhydride (0.56 g). The mixture was stirred at room temperature for 5 hours and allowed to stand for 36 hours and then concentrated. The residual insoluble material was collected by filtration and washed with ethyl acetate to afford the title compound (1.55 g, mp 209-214° C., pale yellow powder).

reactant | 2-mercapto-3-[4-(6-methoxy-1-methyl-1H-benzimidazol-2-ylmethoxy)phenyl]propionic acid hydrochloride | 1.5 g | Cl.SC(C(=O)O)CC1=CC=C(C=C1)OCC1=NC2=C(N1C)C=C(C=C2)OC
reactant | pyridine | 0.87 g | N1=CC=CC=C1 | C5H5N
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | acetic anhydride | 0.56 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-Acetylthio-3-[4-(6-methoxy-1-methyl-1H-benzimidazol-2-ylmethoxy)phenyl]propionic acid | 1.55 g | C(C)(=O)SC(C(=O)O)CC1=CC=C(C=C1)OCC1=NC2=C(N1C)C=C(C=C2)OC | C21H22N2O5S
